US06777432B1
[5-(4-fluoro-phenylcarbamoyl)-pyridin-2-ylsulfanyl]-acetic acid ethyl ester
To a solution of 6-chloro-N-(4-fluoro-phenyl)-nicotinamide (0.21 g, 0.84 mmol) in 5 mL of THF was added potassium tert-butoxide (0.19 g, 1.68 mmol) in one portion and stirred for 1 minute. To the suspension was added methyl thioglycolate (0.15 mL, 1.68 mmol) dropwise over 1 minute. The mixture was stirred for 12 h then poured into ice water and the solids collected. Purification by trituration using ethyl acetate/hexanes gave 88 mg (33%) of the desired product as a white solid: 1H NMR (300 MHz, DMSO-d6) δ 10.36 (s 1H), 8.90 (m, 1H), 8.11 (m, 1H), 7.74 (m, 2H), 7.48 (m, 1H), 7.17 (m, 2H), 4.10 (s, 2H), 3.63 (s, 3H); MS (EI) m/z 319.13 (M−H)−.

reactant | 6-chloro-N-(4-fluoro-phenyl)-nicotinamide | 0.84 mmol, 0.21 g | ClC1=NC=C(C(=O)NC2=CC=C(C=C2)F)C=C1 | C12H8ClFN2O
reactant | potassium tert-butoxide | 1.68 mmol, 0.19 g | CC(C)([O-])C.[K+]
reactant | methyl thioglycolate | 1.68 mmol, 0.15 mL | C(CS)(=O)OC | C3H6O2S
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | [5-(4-fluoro-phenylcarbamoyl)-pyridin-2-ylsulfanyl]-acetic acid ethyl ester | 88 mg, 33% | C(C)OC(CSC1=NC=C(C=C1)C(NC1=CC=C(C=C1)F)=O)=O | C16H15FN2O3S
